US08729078B2
In a 25 mL container, 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-pyrazole-3-carbonitrile (18 mg, 43.3 μmol, Eq: 1.00), sodium borohydride (6.56 mg, 173 μmol, Eq: 4) were combined with CH2Cl2 (2 mL) and MeOH (1 mL) to give a white suspension. The mixture was stirred for 1 hr. The reaction mixture was poured into 25 mL sat NH4Cl and extracted with EtOAc (3×25 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The organic layer was concentrated to give 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrazole-3-carbonitrile (16 mg, 99%) of white product.

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-pyrazole-3-carbonitrile | 43.3 μmol, 18 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C=C1)C#N)C=O | C23H18FN5O2
reactant | sodium borohydride | 173 μmol, 6.56 mg | [BH4-].[Na+]
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | MeOH | 1 mL | CO | CH4O
product | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrazole-3-carbonitrile | 16 mg, 99% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C=C1)C#N)CO | C23H20FN5O2
